US07772221B2
Step Q (1): (R)-(−)-Phenylglycinol (2.18 g, 15.9 mmol) was dissolved in DCM (200 mL) and to this was added pyridine (3.86 mL, 47.7 mmol) followed by trifluoroacetic anhydride (2.25 mL, 15.9 mmol). After 2 hr, the crude reaction mixture was concentrated in vacuo. The residue was purified using silica-gel column chromatography (10-55% EtOAc/Hexanes, linear gradient) to afford 3.34 g (90% yield) of (R)-2,2,2-trifluoro-N-(2-hydroxy-1-phenylethyl)acetamide as a white solid. LC-MS (M+H)+=234.08; 1H NMR (300 MHz, CDCl3) δ ppm 2.38-2.73 (m, 2H) 3.95 (dd, J=4.39, 1.83 Hz, 2H) 5.04-5.13 (m, 1H) 7.02-7.12 (m, 1H) 7.25-7.41 (m, 4H).

reactant | (R)-(−)-Phenylglycinol | 15.9 mmol, 2.18 g | C1=CC=C(C=C1)[C@H](CO)N | C8H11NO
reactant | pyridine | 47.7 mmol, 3.86 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 15.9 mmol, 2.25 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | (R)-2,2,2-trifluoro-N-(2-hydroxy-1-phenylethyl)acetamide | 3.34 g, 90% yield | FC(C(=O)N[C@@H](CO)C1=CC=CC=C1)(F)F | C10H10F3NO2
